US08859553B2
3-(2-(6-(Cyclopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-cyclopropyl-6-ethynylpyridazin-3-amine and 3-iodo-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide (as prepared above) in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 125-126° C.; 1H NMR (300 MHz, CDCl3) δ: 9.94 (1H, s), 8.34 (1H, s), 8.20-8.23 (1H, d, J=8.7 Hz), 8.02 (1H, s), 7.86-7.89 (1H, d, J=8.1 Hz), 7.53 (1H, s), 7.39-7.42 (1H, d, J=9.0 Hz), 7.30-7.32 (2H, m), 7.02-7.05 (1H, d, J=9.2 Hz), 6.80 (1H, s), 6.02 (1H, s), 2.58 (1H, m), 2.48 (3H, s), 2.29 (3H, s), 0.87 (2H, m), 0.64 (2H, brs). HRMS (ESI-TOF+): m/z [M+2H]+2 calcd for C28H25F3N6O: 259.1015. found: 259.1023.

reactant | N-cyclopropyl-6-ethynylpyridazin-3-amine | C1(CC1)NC=1N=NC(=CC1)C#C | C9H9N3
reactant | 3-iodo-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=C(C=C2)N2C=NC(=C2)C)C(F)(F)F)C=CC1C | C19H15F3IN3O
product | 3-(2-(6-(Cyclopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide | C1(CC1)NC1=CC=C(N=N1)C#CC=1C=C(C(=O)NC2=CC(=C(C=C2)N2C=NC(=C2)C)C(F)(F)F)C=CC1C | C28H23F3N6O
